US06297259B1
N-Methyl-N-(4-(4-(1-(pyrid-2-ylmethyl)-1H-benzimidazole-2-carbonyl) piperidin-1-yl)-2-(4-fluorophenyl)butyl)-2-methoxy-5-(4H-triazol-4-yl)benzamide
Prepare by the method of Example 1.7 using N-methyl-N-(2-(4-fluorophenyl)-4-methanesulfonylbutyl)-2-methoxy-5-(4H-triazol-4-yl)benzamide and 4-(1-(pyrid-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine hydriodic acid salt to give the title compound.

reactant | N-methyl-N-(2-(4-fluorophenyl)-4-methanesulfonylbutyl)-2-methoxy-5-(4H-triazol-4-yl)benzamide | CN(C(C1=C(C=CC(=C1)C1N=NN=C1)OC)=O)CC(CCS(=O)(=O)C)C1=CC=C(C=C1)F | C22H25FN4O4S
reactant | 4-(1-(pyrid-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine hydriodic acid salt | I.N1=C(C=CC=C1)CN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2
product | N-Methyl-N-(4-(4-(1-(pyrid-2-ylmethyl)-1H-benzimidazole-2-carbonyl) piperidin-1-yl)-2-(4-fluorophenyl)butyl)-2-methoxy-5-(4H-triazol-4-yl)benzamide | CN(C(C1=C(C=CC(=C1)C1N=NN=C1)OC)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1CC1=NC=CC=C1)C=CC=C2)C2=CC=C(C=C2)F | C40H41FN8O3
